US07199120B2
N-Benzyl-2,3-bis[2-(benzylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine was prepared by treating 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine with benzylamine as described in Example 7. 1H NMR, (400 MHz, CDCl3): δ 8.37 (d, 1H), 8.02 (d, 1H), 7.16–7.40 (m, 16H), 7.12 (t, 1H), 7.02 (bs, 1H), 6.63 (d, 1H), 6.48 (t, 1H), 5.96 (d, 1H), 5.58 (bs, 1H), 5.46 (1H), 4.65 (d, 2H), 4.38–4.62 (m, 4H); MS m/z 590 (M+1).

reactant | 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)S(=O)C)C2=NC(=NC=C2)S(=O)C | C17H13ClN6O2S2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-Benzyl-2,3-bis[2-(benzylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine | C(C1=CC=CC=C1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCC2=CC=CC=C2)C2=NC(=NC=C2)NCC2=CC=CC=C2 | C36H31N9
